US07939569B1
A mixture of 2,4-difluoro-4′-(3-nitro-benzyloxy)-biphenyl (28 mg, 0.082 mmol), succinic anhydride (8.2 mg, 0.083 mmol) and 10% Pd/C (4.4 mg) in THF (3 mL) was hydrogenated at 45 psi for 4 hrs. The reaction mixture was filtered and evaporated. The crude product was purified by flash chromatography with a 0-50% gradient of ethyl acetate in hexanes to yield 7 mg (20.7%) of N-[3-(2′,4′-difluoro-biphenyl-4-yloxymethyl)-phenyl]-succinamic acid as a solid. LC-MS (ES) calculated for C23H19F2NO4, 411.41; found m/z 410.2 [M−H]−.

reactant | 2,4-difluoro-4′-(3-nitro-benzyloxy)-biphenyl | 0.082 mmol, 28 mg | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)OCC1=CC(=CC=C1)[N+](=O)[O-] | C19H13F2NO3
reactant | succinic anhydride | 0.083 mmol, 8.2 mg | C1(CCC(=O)O1)=O | C4H4O3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 4.4 mg | [Pd] | Pd
product | N-[3-(2′,4′-difluoro-biphenyl-4-yloxymethyl)-phenyl]-succinamic acid | 7 mg, 20.7% | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)OCC=1C=C(C=CC1)NC(CCC(=O)O)=O | C23H19F2NO4
